US05504107
Methyl (2R)-Tetrahydro-5-hydroxy-2- furoate was prepared as for the S-isomer from methyl (2R)-tetrahydro-5-methoxy-2-furoate in similar yield: α!D25 -9.2° (c=1.8, CH3OH); IR (neat, cm-1) 3543 (br), 2956, 1741, 1068, 1010; 1H NMR (CDCL3) for diastereomer A (58%) a 5.62 (m, 1H), 4.67 (dd, J=6.5, 8.1 Hz, 1H), 3.78 (s, 3H), 2.46-1.93 (m, 4H); for diastereomer B (42%) δ 5.75 (m, 1H), 4.73 (dd, J=3.8, 8.5 Hz, 1H), 3.76 (s, 3H), 2.46-1.93 (m, 4H); HRMS calculated for C6H10O4 (M+), 146.0579, found 46.0577.

reactant | methyl (2R)-tetrahydro-5-methoxy-2-furoate | COC1CC[C@@H](O1)C(=O)OC | C7H12O4
solvent | CH3OH | CO | CH4O
product | Methyl (2R)-Tetrahydro-5-hydroxy-2- furoate | OC1CC[C@@H](O1)C(=O)OC | C6H10O4
